US09126931B2
3-Chloro-9-bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one
Under nitrogen atmosphere, 9-bromo-3-chloro-8-hydroxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one (Compound S2-4, 112 mg, 0.29 mmol) and triphenylphosphine (227 mg, 3 eq.) were added with THF (2 ml), and ((R)-2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol (114 mg, 3 eq.) and 2.19 N toluene solution (0.4 mL, 3 eq.) of diethyl azodicarboxylic acid were added dropwise thereto, followed by stirring at 40° C. for 12 hr under nitrogen atmosphere. The residues obtained from the reaction solution after concentration under reduced pressure were purified by silica gel column chromatography (ethyl acetate/dichloromethane) to obtain the title compound (white powder, 100 mg).

reactant | 9-bromo-3-chloro-8-hydroxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 0.29 mmol, 112 mg | BrC1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)Cl)(C)C)C=C1O | C18H13BrClNO2
reactant | triphenylphosphine | 227 mg, 3 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ((R)-2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol | 114 mg, 3 eq. | CC1(OC[C@H](O1)CO)C | C6H12O3
reactant | toluene | 2.19 N, 0.4 mL, 3 eq. | C1(=CC=CC=C1)C | C7H8
reactant | diethyl azodicarboxylic acid | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-Chloro-9-bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 100 mg | ClC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C(=C4)Br)OC[C@@H]4OC(OC4)(C)C)=O | C24H23BrClNO4
